US06531502B1
3,5-Diisopropyl-4-methoxybenzaldehyde was condensed with 7-fluoro-2-oxindole to give 0.25 g of 3-(3,5-diisopropyl-4-methoxybenzylidene)-7-fluoro-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 3,5-Diisopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)C | C14H20O2
reactant | 7-fluoro-2-oxindole | FC=1C=CC=C2CC(NC12)=O | C8H6FNO
product | 3-(3,5-diisopropyl-4-methoxybenzylidene)-7-fluoro-1,3-dihydroindol-2-one | 0.25 g | C(C)(C)C=1C=C(C=C2C(NC3=C(C=CC=C23)F)=O)C=C(C1OC)C(C)C | C22H24FNO2
